US06608059B1
b) 4-[5-(2,6-Dichlorobenzyloxy)-3-propionyl-indol-1-yl]butyronitrile
To a flame dried flask was added a solution of 4-[5-(2,6-dichlorobenzyloxy)-3-formyl-indol-1-yl]butyronitrile (0.23 g, 0.59 mmol) in THF (10 mL) and cooled to −78° C. To this solution ethyl magnesium bromide (1.0M in THF, 0.65 mL, 0.65 mmol) was added via dropwise addition. The reaction was stirred at −78° C. for 3 h then warmed to room temperature slowly. After stirring at room temperature for 18 h, the reaction was partitioned between ethyl acetate and water. The organic layer was washed with brine and dried over Na2SO4. Purification by flash column chromatography (silica gel, ethyl acetate/hexane) afforded three products, one of which was identified by NMR, IR and LC-MS as the ketone 4-[5-( 2,6-dichlorobenzyloxy)-3-propionyl-indol-1-yl]butyronitrile (0.034 g, 14%). MS(ES) m/e 415.0 [M+H]+. None of the expected secondary alcohol was recovered.

reactant | 4-[5-(2,6-dichlorobenzyloxy)-3-formyl-indol-1-yl]butyronitrile | 0.59 mmol, 0.23 g | ClC1=C(COC=2C=C3C(=CN(C3=CC2)CCCC#N)C=O)C(=CC=C1)Cl | C20H16Cl2N2O2
reactant | ethyl magnesium bromide | 0.65 mmol, 1.0M, 0.65 mL | C(C)[Mg]Br
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-[5-(2,6-Dichlorobenzyloxy)-3-propionyl-indol-1-yl]butyronitrile | ClC1=C(COC=2C=C3C(=CN(C3=CC2)CCCC#N)C(CC)=O)C(=CC=C1)Cl | C22H20Cl2N2O2
